US08017607B2
To a mixture of methyl 4-amino-2-methylbenzoate (208.9 mg, 1.230 mmol) in N,N-dimethyl formamide (5 mL) was added 1,1′-carbonyldiimidazole (Aldrich, 215 mg, 1.29 mmol). After it was stirred at rt overnight under an argon atmosphere, the reaction mixture was extracted with EtOAc, and washed with water (2×), and saturated NaCl. The organic phase was separated, dried over Na2SO4, filtered and concentrated to give 4-[(Imidazole-1-carbonyl)-amino]-2-methyl-benzoic acid methyl ester (342.0 mg) which was used without further purification.

reactant | methyl 4-amino-2-methylbenzoate | 1.230 mmol, 208.9 mg | NC1=CC(=C(C(=O)OC)C=C1)C | C9H11NO2
reactant | 1,1′-carbonyldiimidazole | 1.29 mmol, 215 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[(Imidazole-1-carbonyl)-amino]-2-methyl-benzoic acid methyl ester | 342.0 mg | COC(C1=C(C=C(C=C1)NC(=O)N1C=NC=C1)C)=O | C13H13N3O3
